US07166598B2
To a solution of (2R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid (5.14 g) in dichloromethane (50 ml) was added triethylamine (8.49 ml), N-benzylglycine benzyl ester hydrochloride (5.08 g), and 2-chloro-1-methylpyridinium iodide (4.89 g) under ice-bath cooling. After being stirred at room temperature 90 minutes, the reaction mixture was concentrated under reduced pressure, and ethyl acetate (50 ml) and water (50 ml) were added to the residue with stirring, adjusted pH 1 with diluted hydrochloric acid. The organic layer was separated, washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (100 g) using a mixed solvent of toluene and ethyl acetate (10:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give N-benzyl-N-(benzyloxycarbonylmethyl)-(2R)-2-(tert-butoxycarbonylamino)-3-(4-methoxyphenyl)propionamide (8.57 g) as a syrup.

reactant | (2R)-2-tert-butoxycarbonylamino-3-(4-methoxyphenyl)propionic acid | 5.14 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C15H21NO5
reactant | triethylamine | 8.49 ml | C(C)N(CC)CC | C6H15N
reactant | N-benzylglycine benzyl ester hydrochloride | 5.08 g | Cl.C(C1=CC=CC=C1)OC(CNCC1=CC=CC=C1)=O
reactant | 2-chloro-1-methylpyridinium iodide | 4.89 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-benzyl-N-(benzyloxycarbonylmethyl)-(2R)-2-(tert-butoxycarbonylamino)-3-(4-methoxyphenyl)propionamide | 8.57 g | C(C1=CC=CC=C1)N(C([C@@H](CC1=CC=C(C=C1)OC)NC(=O)OC(C)(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C31H36N2O6
